US07037925B2
6,7-Dimethoxy 4-(2,3-dimethylanilino)-3-quinolinecarboxamide
A mixture of 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide (0.046 g, 0.17 mmol), 2,3-dimethylaniline (20 μl, 0.22 mmol) and acetic acid (40 μl) in DMF (0.8 ml) was heated at 100° C. for 3.5 h. After cooling the reaction mixture was diluted with water (15 ml) and made alkaline with 1 M NaOH. The precipitate was collected by filtration, rinsed with water and dried to give the title compound (48 mg, 79%).

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide | 0.17 mmol, 0.046 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
reactant | 2,3-dimethylaniline | 0.22 mmol, 20 μl | CC1=C(N)C=CC=C1C | C8H11N
reactant | acetic acid | 40 μl | C(C)(=O)O | C2H4O2
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
solvent | water | 15 ml | O | H2O
product | 6,7-Dimethoxy 4-(2,3-dimethylanilino)-3-quinolinecarboxamide | 48 mg, 79% | COC=1C=C2C(=C(C=NC2=CC1OC)C(=O)N)NC1=C(C(=CC=C1)C)C | C20H21N3O3
